US08669234B2
5-(4-Bromo-phenyl)-5-methyl-imidazolidine-2,4-dione:
A mixture of 4-bromo acetophenone (8.0 g, 40.2 mmol), ammonium carbonate (40 g, 402 mmol) and potassium cyanide (3.4 g, 52.3 mmol) in a mixed solvent of ethanol (90 mL) and water (90 mL) was stirred at 55° C. for 5 hours, then 12 hours at ambient. The solution was adjusted to pH=6 with 6 N HCl carefully and subsequently stirred at room temperature for 2 hours. The precipitate was filtered off, washed with water. The collected white solid was dried under vacuum to give the product (9.2 g, 85%). m/z 267.1, 269.1 (M−H)−.

reactant | 4-bromo acetophenone | 40.2 mmol, 8.0 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | ammonium carbonate | 402 mmol, 40 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 52.3 mmol, 3.4 g | [C-]#N.[K+]
reactant | HCl | 6 N | Cl | ClH
reactant | ethanol | 90 mL | C(C)O | C2H6O
solvent | water | 90 mL | O | H2O
product | 5-(4-Bromo-phenyl)-5-methyl-imidazolidine-2,4-dione | 9.2 g, 85% | BrC1=CC=C(C=C1)C1(C(NC(N1)=O)=O)C | C10H9BrN2O2
